Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Erythromycin Base
 
Attending: ___
 
___ Complaint:
Fibroid uterus
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy, bilateral salpingectomies, 
limited diagnostic cystoscopy

 
History of Present Illness:
___ yrs. G4 P3 Ab1   Patient's last menstrual period was 
___. presents for pre-op visit for planned surgery, total 
laparoscopic hysterectomy, bilateral salpingectomies. 
Indication: Fibroid uterus The patient has a known fibroid 
uterus. On PUS in ___, she was noted to have multiple small 
fibroids including 2 submucosal fibroids-however on hysteroscopy 
they did not have a significant intracavitary portion so a 
Mirena IUD was placed. She had it removed one month later due to 
side effects-she was then scheduled for definitive surgery but 
cancelled due to a cough. 

She returned ___ at which time she was still having menses 
that were very heavy for 3 days to the point where she was 
getting IV iron infusions. She was also having dysmenorrhea with 
pain "like in labor" as well as frequent urination. She was not 
a candidate for OCPs due to her HTN and she had failed a Mirena 
IUD. We discussed ___ and surgery-the patient did not follow up 
at that time.  She returned recently saying that her periods 
were better for a time but recently she has started to have 
"gushing again" She has had to resume iron infusion due to low 
ferritins.

On ___, her HCT was 39 and her ferritin was 12.9 Her 
periods remain monthly lasting 5 days. She is starting to have 
hot flashes/sweats etc Her last PUS was ___ at which time 
there were again multiple small fibroids (1.5-2.5 cm) with some 
having a question of a submucosal component She had an MRI 
___ due to abdominal pain which showed essentially the same 
thing.
Office hysteroscopy ___ showed 3 submucosal fibroids each 
about 1.5 cm- right lateral, and posterior x 2-less than ___ of 
fibroids visible. 2-Tiny submucosal fibroids along anterior wall 
less than ___ of fibroid viisible
Options for management were discussed and pt desires definitive 
surgical therapy of TLH. She agrees to concomitant BS for 
possible ovarian cancer prophylaxis.
 
Past Medical History:
PMH: 
- IBS
- Fibroid uterus
- Obesity 
- Anemia
- HTN

PSH: 
- Lsc BLT
- Breast bx
- Hysteroscopy 
- Lsc LOA
- Hsc EBX/PPY 

OB: G4P3
- SVD x 3, TAB x 1

GYN: STDs none, BCM - TL, SA - male partner 
 
Social History:
___
Family History:
Glaucoma - sister
___ cancer - mother
DM T2 - father
Lung cancer - father 
 
Physical ___ physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
None
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing TLH, BS, right ureterolysis, and 
cystoscopy. Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV Dilaudid and Toradol. 
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone, ibuprofen, and acetaminophen.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
HCTZ 25', nifedipine CR 30', nexium, linzess, albuterol
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
Do not take >4000mg acetaminophen in 24h. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*0
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
3. Docusate Sodium 100 mg PO BID 
hold for loose stools. 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily. 
Disp #*60 Tablet Refills:*0
4. Hydrochlorothiazide 25 mg PO DAILY 
5. NIFEdipine CR 30 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
___ cause sedation. Do not drive or combine with alcohol. 
8. Ibuprofen 600 mg PO Q6H:PRN pain 
Take with food to avoid GI upset. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___